US04902794
In the manner given in Example 1, a solution of 1,3-dihydro-6-ethylsulfinyl-5-[p-(trifluoromethyl)phenyl]-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to reflux with isopropoxyacetic acid hydrazide to give 7-ethylsulfinyl-1-(isopropoxymethyl)-6-[p-(trifluoromethyl)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-6-ethylsulfinyl-5-[p-(trifluoromethyl)phenyl]-2H-1,4-benzodiazepine-2-thione | C(C)S(=O)C1=CC=CC2=C1C(=NCC(N2)=S)C2=CC=C(C=C2)C(F)(F)F | C18H15F3N2OS2
reactant | isopropoxyacetic acid hydrazide | C(C)(C)OCC(=O)NN | C5H12N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 7-ethylsulfinyl-1-(isopropoxymethyl)-6-[p-(trifluoromethyl)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)S(=O)C1=CC=CC2=C1C(=NCC=1N2C(=NN1)COC(C)C)C1=CC=C(C=C1)C(F)(F)F | C23H23F3N4O2S
